*
* Вольфрамовая Лампа Накаливания (Lightbulb) * RAP 6/2/97 *
*
* Чтобы определить напряжение, ток через клеммы (H и L)
* воспринимается и умножается на мгновенное сопротивление нитей.

.subckt LampMultisim H L Vnom=220V Pnom=100W HCtau=4.082
Vsense H c 0   ;terminal current sense
.param Rhi={Vnom*Vnom/Pnom}
*
* Current is multiplied by nominal resistance and scaled to get voltage  
BR c L R={Rhi}*FR1(   Ln( max(1,V(tempe)/300)) )
*
bGpow 0 tempe i=I(Vsense) * V(H,L) ;instantaneous power
*
* HCtau is used to set the heat capacity time constant. Different
* bulbs may have different time constants.
Rtherml tempe ambnt {2600/Pnom} ;temperature for nominal power=2600K+300K
Ctherml tempe ambnt {(HCtau / 2600) * Pnom} ic=0 ;thermal capacitity
Vambnt ambnt 0 300 ;ambient temperature in degrees Kelvin
*
* Normalized resistance as a function of temperature.
.func FR1(x) {TaBLe(x ,
+ -1., 0.06,
+ 0.0, 0.06,
+ 0.5, 0.29,
+ 1.0, 0.56,
+ 1.5, 0.82,
+ 2.0, 0.94,
+ 2.33, 0.98,
+ 2.405, 1.04,
+ 2.53, 1.08)}
*
.ends
*$